US06538004B2
4-(3,4-dichlorophenyl)-1-methyl-1,2,4,6,7,8-hexahydrocyclopenta[b]pyrazolo[4,3-e]pyridine-3,5-dione
3,4-Dichlorobenzaldehyde (0.17 g, 1.0 mmol), 1,3-cyclopentadione (0.1 g, 1.0 mmol), and 5-amino-1-methyl-1,2-dihydropyrazol-3-one (0.11 g, 1.0 mmol) were processed as described in Example 1 to provide 0.24 g of the title compound. 1H NMR (300 MHz, DMSO-d6) δ 2.28 (t, 2H), 2.68 (m, 2H), 3.5 (s, 3H), 4.7 (s, 1H), 7.13 (dd, 1H), 7.33 (d, 1H), 7.49 (d, 1H), 9.58 (s, 1H), 10.45 (s, 1H); MS (ESI−) m/z 348 (M−H)−; Anal. calcd for C16H13N3Cl2O2:C, 54.71;H, 4.32; N, 11.26. Found: C, 54.37;H, 4.40; N, 10.80.

reactant | 3,4-Dichlorobenzaldehyde | 1.0 mmol, 0.17 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | 1,3-cyclopentadione | 1.0 mmol, 0.1 g | C1CC(=O)CC1=O | C5H6O2
reactant | 5-amino-1-methyl-1,2-dihydropyrazol-3-one | 1.0 mmol, 0.11 g | NC1=CC(NN1C)=O | C4H7N3O
product | 4-(3,4-dichlorophenyl)-1-methyl-1,2,4,6,7,8-hexahydrocyclopenta[b]pyrazolo[4,3-e]pyridine-3,5-dione | 0.24 g | ClC=1C=C(C=CC1Cl)C1C2=C(NC3=C1C(NN3C)=O)CCC2=O | C16H13Cl2N3O2
